US07652041B2
Step 4. Preparation of N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]propanamide (A-84)
To a solution of (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]acrylamide (70 mg, 0.17 mmol) in MeOH (2 mL) and EtOAc (2 mL) was added Pd/C (10 wt %, 20 mg). The mixture was stirred under hydrogen (60 psi) for 18 h and then filtrated through Celite. The filtrate was concentrated and purified by column chromatography to give A-84 (28 mg, 41%). 1H NMR (300 MHz, CD3OD) δ: 8.35 (d, 2H), 8.03 (d, 1H), 7.70 (dd, 1H), 7.48 (d, 1H), 7.10-7.24 (m, 6H), 3.96 (s, 2H), 2.97 (dd, 2H), and 2.65 (dd, 2H). LCMS: (FA) ES+ 419.2 (M+1), ES− 417.2 (M−1).

reactant | (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]acrylamide | 0.17 mmol, 70 mg | ClC1=C(C=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CC1=CC=NC=C1)=O)C(F)(F)F | C22H16ClF3N2O
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]propanamide | ClC1=C(C=C(C=C1)NC(CCC1=CC=C(C=C1)CC1=CC=NC=C1)=O)C(F)(F)F | C22H18ClF3N2O
